US04596819
Triethylamine, 1.15 g (0.0114 mol), is added to 1.59 g (0.0114 mol of ethyl glycinate hydrochloride in 200 ml of dichloromethane at 0°. To the previous suspension at 0° C. is added 4 g (0.0114 mol) of (2S)-phenylmethyl 2-[(1-carboxy-3-methylbutoxy)methyl]-1-pyrrolidinecarboxylate (center on side chain is R,S mixture), 1.74 g (0.0114 mol) of 1-hydroxybenzotriazole and 2.35 g (0.0114 mol) of dicyclohexylcarbodiimide. The mixture is allowed to reach room temperature and stirred 14 hours, filtered, the solvent evaporated in vacuo and the residue dissolved in 200 ml of dichloromethane and washed successively with a 5% aqueous solution of sodium carbonate, 2×200 ml, 10% aqueous solution of citric acid, 2×200 ml, and a saturated aqueous solution of sodium chloride, 2×200 ml. The dichloromethane layer is separated, dried over sodium sulfate, evaporated in vacuo, and the residue purified by chromatography using silica gel and eluting with dichloromethanemethanol (98:2) to give (2S)-phenylmethyl 2-[[1-[[(2-ethoxy-2-oxoethyl)amino]carbonyl]-3-methylbutoxy]methyl]-1-pyrrolidinecarboxylate (center on side chain is R,S mixture), 4 g; [α]D25 -72.7° (c 0.33, methanol).

reactant | ethyl glycinate hydrochloride | 0.0114 mol | Cl.NCC(=O)OCC
reactant | (2S)-phenylmethyl 2-[(1-carboxy-3-methylbutoxy)methyl]-1-pyrrolidinecarboxylate | 0.0114 mol, 4 g | C(=O)(O)C(CC(C)C)OC[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C19H27NO5
reactant | 1-hydroxybenzotriazole | 0.0114 mol, 1.74 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 0.0114 mol, 2.35 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
product | (2S)-phenylmethyl 2-[[1-[[(2-ethoxy-2-oxoethyl)amino]carbonyl]-3-methylbutoxy]methyl]-1-pyrrolidinecarboxylate | C(C)OC(CNC(=O)C(CC(C)C)OC[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O | C23H34N2O6
